.SubCkt GA343QR7GD182KW01 _net1 _net2
.param K01=1.7923e-09
.param M01=6.0000e+09
.param L02=2.4620e-10
.param M03=1.5977e-01
.param K04=2.1766e-08
.param M04=1.8367e+02
.param K05=1.5738e-07
.param M05=2.5282e+00
.param K06=8.1851e-08
.param M06=5.6452e-01
.param K07=3.3088e-08
.param M07=1.4829e-01
.param L08=5.7714e-11
.param M08=1.3197e+00
.param K09=3.9173e-09
.param L09=8.1406e-11
.param M09=5.7772e-01
.param K10=9.1888e-10
.param L10=2.8661e-11
.param M10=3.1221e-01
.param K11=7.0978e-12
.param L11=2.5239e-10
.param M11=2.4991e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net2 'K11'
L11 _net1011 _net2 'L11'
R11 _net1011 _net2 'M11'
.ends 

.SubCkt GA343QR7GD222KW01 _net1 _net2
.param K01=2.6350e-09
.param M01=6.0000e+09
.param L02=1.6256e-10
.param M03=1.2818e-01
.param K04=9.8954e-09
.param M04=1.6084e+03
.param K05=1.6113e-07
.param M05=6.2174e+00
.param K06=1.0859e-07
.param M06=4.6657e-01
.param K07=4.7066e-07
.param M07=3.3815e-01
.param K08=3.4496e-08
.param M08=1.3900e-01
.param L09=1.1665e-10
.param M09=7.3291e-01
.param K10=9.3453e-09
.param L10=3.5562e-11
.param M10=2.9114e-01
.param K11=3.0151e-09
.param L11=1.7470e-11
.param M11=2.5373e-01
.param K12=4.0146e-12
.param L12=3.8864e-10
.param M12=3.1280e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net2 'K12'
L12 _net1112 _net2 'L12'
R12 _net1112 _net2 'M12'
.ends 

.SubCkt GA343DR7GD472KW01 _net1 _net2
.param K01=5.1339e-09
.param M01=6.0000e+09
.param L02=1.8778e-10
.param M03=7.2855e-02
.param K04=2.7424e-08
.param M04=6.8184e+02
.param K05=1.0543e-06
.param M05=6.1904e-01
.param K06=7.4706e-07
.param M06=3.3525e-01
.param K07=2.9230e-07
.param M07=2.5999e-01
.param K08=1.1414e-07
.param M08=6.9391e-02
.param L09=1.4664e-10
.param M09=4.6068e-01
.param K10=1.1015e-08
.param L10=8.7390e-11
.param M10=4.2406e-01
.param K11=4.3278e-09
.param L11=4.6492e-11
.param M11=2.7443e-01
.param K12=4.2234e-12
.param L12=3.8683e-10
.param M12=3.0426e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net2 'K12'
L12 _net1112 _net2 'L12'
R12 _net1112 _net2 'M12'
.ends 
