.SubCkt GRMMDXR60J105ME05 [_net1] [_net2]
.param K01=7.8581e-07
.param M01=5.0000e+07
.param L02=1.0300e-10
.param M03=1.0740e-02
.param K04=3.2424e-05
.param M04=1.5989e+02
.param K05=4.8860e-05
.param M05=9.6139e+00
.param K06=5.0065e-05
.param M06=1.0152e+00
.param K07=5.7097e-05
.param M07=8.8646e-02
.param K08=3.3398e-05
.param M08=1.7025e-02
.param K09=3.0638e-05
.param M09=1.5345e-03
.param L10=2.6816e-11
.param M10=6.3888e-02
.param L11=8.2592e-11
.param M11=3.4452e-02
.param K12=5.4906e-07
.param L12=4.8115e-11
.param M12=6.2540e-03
.param K13=4.7350e-10
.param L13=9.8034e-12
.param M13=8.3892e-02
.param K14=1.8006e-11
.param L14=1.0717e-11
.param M14=1.0756e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GRMMDXR60J105ME05
